US07309715B2
Synthesis of 3-chloro-2-methyl-N-(2-methyl-benzooxazol-6-yl)-benzenesulfonamide, STX 839 (KRB01009):
To a solution of 3-chloro-2-methylbenzenesulphonyl chloride (163 mg, 0.723 mmol) in dichloromethane (3 mL) was added pyridine (140 μL, 1.72 mmol) and the mixture was stirred under N2 for 5 min, after which time 6-amino-2-methylbenzoxazole (102 mg, 0.688 mmol) was added. The resulting mixture was stirred for 1 h at room temperature, then saturated NaHCO3 solution was added (8 mL) and the mixture was extracted into ethyl acetate (15 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford a white solid (151 mg, 65%), single spot at Rf 0.50 (60:40 hexane:ethyl acetate). mp 127.1-127.5° C., HPLC purity 97% (tR 2.05 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 7.85 (1H, dd, J=8.1, 1.1 Hz), 7.53 (1H, dd, J=8.1, 1.3 Hz), 7.45 (1H, d, J=8.4 Hz), 7.27 (1H, d, J=2.2 Hz), 7.17 (1H, t, J=7.9 Hz), 6.93 (1H, s, N—H), 6.86 (1H, dd, J=8.4, 2.2 Hz), 2.71 (3H, s), 2.58 (3H, s). LCMS: 335.14 (M−). FAB-MS (MH+, C15H13ClN2O3S): calcd 337.0413, found 337.0406.

reactant | 3-chloro-2-methylbenzenesulphonyl chloride | 0.723 mmol, 163 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | pyridine | 1.72 mmol, 140 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-amino-2-methylbenzoxazole | 0.688 mmol, 102 mg | NC1=CC2=C(N=C(O2)C)C=C1 | C8H8N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-chloro-2-methyl-N-(2-methyl-benzooxazol-6-yl)-benzenesulfonamide | 151 mg, 65% | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=CC2=C(N=C(O2)C)C=C1)C | C15H13ClN2O3S
